US06103718
D. 2-(3-Cyclopentoxy-4-methoxybenzoyl)-cis-cyclohexanecarboxylic acid
4-Bromo-2-cyclopentyloxy-1-methoxybenzene (16.3 g, 60 mmol) was dissolved in THF (200 ml) and cooled with an ethanol/N2 bath to -90° C. BuLi (41 ml, 66 mmol) was added dropwise while keeping the temperature below -80° C. and stirred for another 15 min after the last addition. This mixture was then quickly added under a nitrogen atmosphere to a cooled solution (-90° C.) of cis-1,2-cyclohexanedicarboxylic anhydride (11.1 g, 72 mmol) in THF (200 ml). After stirring for 2 h at -80° C. solid ammoniumchloride was added and the reaction mixture was allowed to warm slowly to room temperature. Water (300 ml) was added and the anorganic layer was washed with ethyl acetate (200 ml). The combined organic extracts were washed with water (300 ml) and brine (2×300 ml), dried (MgSO4) and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane and purified by chromatography (petroleum ether (60°-95° C.)/ethyl acetate: 7/13) and crystallized from petroleum ether (60°-95° C.)/ethyl acetate to give the title compound (10.1 g) as a white solid. M.p. 120°-121° C.

reactant | 4-Bromo-2-cyclopentyloxy-1-methoxybenzene | 60 mmol, 16.3 g | BrC1=CC(=C(C=C1)OC)OC1CCCC1 | C12H15BrO2
reactant | BuLi | 66 mmol, 41 ml | [Li]CCCC
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 72 mmol, 11.1 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | ammoniumchloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | Water | 300 ml | O | H2O
product | 2-(3-Cyclopentoxy-4-methoxybenzoyl)-cis-cyclohexanecarboxylic acid | 10.1 g | C1(CCCC1)OC=1C=C(C(=O)[C@@H]2[C@@H](CCCC2)C(=O)O)C=CC1OC | C20H26O5
